US08202873B2
Dissolve 5-methyl-3-(trifluoromethyl)pyrazole (1.00 g, 6.66 mmol) in 60% aqueous acetic acid (13 mL). Add sodium acetate (0.819 g, 9.99 mmol) and cool to 0° C. Add bromine (1.17 g, 7.33 mmol) dropwise over 10 min. Stir at 0° C. for 3 hr, then at room temperature for 18 hr. Add ethyl acetate and saturated aqueous sodium sulfite solution. Separate organics and wash one time with saturated aqueous sodium bicarbonate solution followed by saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate to give 4-bromo-5-methyl-3-trifluoromethyl-1H-pyrazole (1.50 g, 100%). GC-MS: m/z=229 [M+].

reactant | 5-methyl-3-(trifluoromethyl)pyrazole | 6.66 mmol, 1.00 g | CC1=CC(=NN1)C(F)(F)F | C5H5F3N2
reactant | sodium acetate | 9.99 mmol, 0.819 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 7.33 mmol, 1.17 g | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-5-methyl-3-trifluoromethyl-1H-pyrazole | 1.50 g, 100% | BrC=1C(=NNC1C)C(F)(F)F | C5H4BrF3N2
